US06610711B2
3-Ethyl-1-vinylbenzene
To a solution of 1-bromo-3-ethylbenzene (2.0 g, 10.8 mmol) in deoxygenated N,N-dimethylformamide (50 ml) under nitrogen was added tributylvinyltin (5.0 g, 16.2 mmol) and tetrakistriphenylphosphine palladium (0) (500 mg, 4 mol %) and the reaction mixture was heated to 75° C. for 7 h. The cooled reaction mixture was poured onto water (400 ml) and extracted with diethyl ether (5×200 ml). The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the crude product. This was distilled under reduced pressure to afford a residue that was partitioned between water and hexane. The layers were separated and the aqueous layer was extracted with hexane. The combined extracts were dried (MgSO4), filtered and concentrated in vacuo to afford the title compound as a colourless oil (1.4 g, 98%).

reactant | 1-bromo-3-ethylbenzene | 10.8 mmol, 2.0 g | BrC1=CC(=CC=C1)CC | C8H9Br
reactant | tributylvinyltin | 16.2 mmol, 5.0 g | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Ethyl-1-vinylbenzene | 1.4 g, 98% | C(C)C=1C=C(C=CC1)C=C | C10H12
